US07589204B2
tert-butyl methyl{[1-(2-oxoethyl)-2,3-dihydro-1H-inden-1-yl]methyl}carbamate (600 mg, 1.98 mmole) and 1-[(1R,5S)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole (622 mg, 1.98 mmole) was dissolved in 50 ml of DCE to which was added sodium triacetoxyborohydride (839 mg, 3.96 mmole) which was stirred overnight. A saturated solution of NaHCO3 was added to quench the remaining hydride. The organic layer was washed with water and evaporated. The resulting residue was absorbed into silica gel and 100% EtOAc was use to remove impurities followed by Methanol to remove the product affording 0.7425 g of tert-butyl methyl[(1-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2,3-dihydro-1H-inden-1-yl)methyl]carbamate (70% yield).

reactant | tert-butyl methyl{[1-(2-oxoethyl)-2,3-dihydro-1H-inden-1-yl]methyl}carbamate | 1.98 mmole, 600 mg | CN(C(OC(C)(C)C)=O)CC1(CCC2=CC=CC=C12)CC=O | C18H25NO3
reactant | 1-[(1R,5S)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole | 1.98 mmole, 622 mg | [C@H]12CC(C[C@H](CC1)N2)N2C(=NC1=C2C=CC=C1)C | C15H19N3
reactant | sodium triacetoxyborohydride | 3.96 mmole, 839 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 50 ml | ClCCCl | C2H4Cl2
product | tert-butyl methyl[(1-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2,3-dihydro-1H-inden-1-yl)methyl]carbamate | 0.7425 g, 70% yield | CN(C(OC(C)(C)C)=O)CC1(CCC2=CC=CC=C12)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C33H44N4O2
